US07074798B2
e) 4-[1−(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (43 mg) and potassium carbonate (13 mg) were suspended in N,N-dimethylformamide (1 ml), and ethyl bromoacetate (9.6 μl) was added to the suspension. After the reaction mixture was stirred at room temperature for 13 hours, the mixture was diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation from the organic layer to give 44 mg of the title compound. δ: 1.19 (s, 9H) 1.23–1.51 (m, 3H) 1.48 (s, 9H) 1.74 (s, 6H) 3.14–3.20 (m, 4H) 3.52–3.58 (m, 4H) 4.17–4.27 (m, 2H) 4.68–4.72 (m, 2H) 4.75 (s, 2H) 5.37–5.42 (m, 1H) 6.03 (s, 2H)

reactant | 4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 43 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O | C25H38N6O6
reactant | potassium carbonate | 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 9.6 μl | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1−(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 44 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O)CC(=O)OCC | C29H44N6O8
